US04898871
1-Acetyl-4-hydroxymethylpiperidine may be obtained in the following manner: acetic anhydride (20.5 cc) is added in the course of 15 minutes to a solution of hydroxymethylpiperidine (23.8 g) in ethanol (100 cc) at a temperature in the region of 10° C., and the mixture is stirred for 18 hours at a temperature in the region of 20° C. The reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa); the residue obtained is taken up with water (50 cc) and potassium carbonate (50 g), and the solution is extracted with methylene chloride (3×150 cc); the organic extracts are combined, dried and concentrated to dryness under reduced pressure (2.7 kPa). 1-Acetyl-4-hydroxymethylpiperidine (33.6 g) is thereby obtained in the form of an oil, which is employed in the crude state in the subsequent syntheses.

reactant | acetic anhydride | 20.5 cc | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydroxymethylpiperidine | 23.8 g | OCN1CCCCC1 | C6H13NO
reactant | water | 50 cc | O | H2O
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | 1-Acetyl-4-hydroxymethylpiperidine | 33.6 g | C(C)(=O)N1CCC(CC1)CO | C8H15NO2
